US09359359B2
To a solution of N-(6-amino-3-(4-methoxybenzyl)-1-methyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)-4-(3-(trifluoromethoxy)phenoxy)butanamide (150 mg, 0.287 mmol) in ethanol (7 mL) was added 2N NaOH (1 mL). The mixture was stirred at 80° C. for 3 h. The reaction was neutralized with saturated ammonium chloride and the product precipitated. The solids were collected and washed with water. The solids were dissolved in ethyl acetate, dried over sodium sulfate and concentrated to give 1-(4-methoxybenzyl)-3-methyl-8-(3-(3-(trifluoromethoxy)phenoxy)propyl)-1H-purine-2,6(3H,7H)-dione (130 mg, 89.7%) as a light yellow solid. LCMS retention time 1.635 min; LCMS MH+ 505.

reactant | N-(6-amino-3-(4-methoxybenzyl)-1-methyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)-4-(3-(trifluoromethoxy)phenoxy)butanamide | 0.287 mmol, 150 mg | NC1=C(C(N(C(N1C)=O)CC1=CC=C(C=C1)OC)=O)NC(CCCOC1=CC(=CC=C1)OC(F)(F)F)=O | C24H25F3N4O6
reactant | NaOH | 2N, 1 mL | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 1-(4-methoxybenzyl)-3-methyl-8-(3-(3-(trifluoromethoxy)phenoxy)propyl)-1H-purine-2,6(3H,7H)-dione | 130 mg, 89.7% | COC1=CC=C(CN2C(N(C=3N=C(NC3C2=O)CCCOC2=CC(=CC=C2)OC(F)(F)F)C)=O)C=C1 | C24H23F3N4O5
